US06417362B1
Cyclohexylamine (50.20 ml, 0.44 mol) and triethylamine (51.76 ml, 0.37 mol) were added to a suspension of phthalic anhydride (50.00 g, 0.34 mol) in toluene (500 ml) at room temperature. The mixture was stirred at 110° C. overnight. The temperature of the system was then returned to room temperature, and a 0.1 N aqueous citric acid solution was added thereto. The mixture was extracted with ethyl acetate. The extract was washed with saturated saline and dried over an hydrous MgSO4. The solvent was then removed by distillation under the reduced pressure. The precipitated crystals were collected by suction filtration, washed with hexane, and then dried to give 55.28 g (71%) of 2-cyclohexylphthalimide as a white crystalline product.

reactant | Cyclohexylamine | 0.44 mol, 50.20 ml | C1(CCCCC1)N | C6H13N
reactant | triethylamine | 0.37 mol, 51.76 ml | C(C)N(CC)CC | C6H15N
reactant | phthalic anhydride | 0.34 mol, 50.00 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | citric acid | 0.1 N | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclohexylphthalimide | 55.28 g, 71% | C1(CCCCC1)C12C(C(=O)NC1=O)C=CC=C2 | C14H17NO2
